US09334286B2
Preparation 140: 2-Methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)butan-2-ol
To a solution of 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)butan-2-one (Preparation 133, in THF (6 mL) at 0° C. was added MeMgBr (3M, 0.24 mL, 0.71 mmol). After stirring for 3 hours, another portion of MeMgBr was added. The solution was stirred at room temperature for 16 hours. The reaction was diluted with brine and extracted with EtOAc. The combined organic layers were washed with water, dried over Na2SO4 and concentrated in vacuo to afford the title compound as a yellow oil (99 mg, 70%).

reactant | 3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)butan-2-one | CC1(OB(OC1(C)C)C=1C=NN(C1)C(C(C)=O)C)C | C13H21BN2O3
reactant | MeMgBr | 0.71 mmol, 3M, 0.24 mL | C[Mg+].[Br-]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | brine | [Cl-].[Na+].O
product | 2-Methyl-3-(4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl)butan-2-ol | 99 mg, 70% | CC(C)(C(C)N1N=CC(=C1)B1OC(C(O1)(C)C)(C)C)O | C14H25BN2O3
